US04544654
N-[2-(Dimethylamino)ethyl]-4-[(methylsulfonyl)amino]benzamide
In a three-neck flask equipped with mechanical stirrer, cooled in ice bath under nitrogen atmosphere, place a solution of 4.67 g (0.02 mole) of 4-[(methylsulfonyl)amino]benzoyl chloride in 30 ml of anhydrous THF. Add dropwise a solution of 1.77 g (0.02 mole) of N,N-dimethylethylenediamine in 10 ml of anhydrous THF; white solid precipitate forms immediately. Stir the mixture at ice temperature for one-half hour and at room temperature for one-half hour. Collect the solid by filtration, wash with dichloromethane, and recrystallize from methanol ether mixture to provide the title compound.

reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 0.02 mole, 4.67 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
reactant | N,N-dimethylethylenediamine | 0.02 mole, 1.77 g | CN(CCN)C | C4H12N2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[2-(Dimethylamino)ethyl]-4-[(methylsulfonyl)amino]benzamide | CN(CCNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O)C | C12H19N3O3S
